US03998834
A solution of 14.2 parts of (phenylmethyl) 4-[(ethoxycarbonyl)phenylamino]-4-(methoxymethyl)-1-piperidinecarboxylate and 1.8 parts of ammonium hydroxide in 120 parts of methanol is hydrogenated at normal pressure and at room temperature with 4 parts of palladium-on-charcoal catalyst 10%. After the calculated amount of hydrogen is taken up, the catalyst is filtered off and the filtrate is evaporated. The residue is dissolved in 75 parts of trichloromethane. The solution is washed twice with water, dried, filtered and evaporated, yielding 7.9 parts (81.4%) of ethyl [4-(methoxymethyl)-4-piperidinyl]phenylcarbamate as a residue.

reactant | (phenylmethyl) 4-[(ethoxycarbonyl)phenylamino]-4-(methoxymethyl)-1-piperidinecarboxylate | C(C)OC(=O)N(C1(CCN(CC1)C(=O)OCC1=CC=CC=C1)COC)C1=CC=CC=C1 | C24H30N2O5
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
product | ethyl [4-(methoxymethyl)-4-piperidinyl]phenylcarbamate | 81.4% | COCC1(CCNCC1)N(C(OCC)=O)C1=CC=CC=C1 | C16H24N2O3
